US04024262
A suspension of 58.5 g. (0.348 mole) of 3-ethyl-N,5-dimethyl-isoxazole-4-carboxamide and 1 liter of tetrahydrofuran is cooled to -65° C. and 478 ml. of 1.6M n-butyllithium in hexane (0.765 mole) is added dropwise maintaining the temperature between -60° and -70° C. After the addition is complete, the suspension is stirred for 11/2 hours at -60° to -70° C., and then 37.2 g. (0.350 mole) of benzaldehyde in 375 ml. tetrahydrofuran is added dropwise maintaining the temperature between -60° and -70° C. After addition is complete, the mixture is stirred for 11/2 hours at -60° to - 70° C. and then warmed to -30° C. and quenched by the addition of saturated ammonium chloride solution. The mixture is further diluted with tetrahydrofuran and the layers are separated. The tetrahydrofuran layer is washed twice with 50% brine, and once with brine, dried over anhydrous mangesium, sulfate, filtered and evaporated in vacuo. The solid residue is triturated with ether and filtered to give 3-ethyl-5-(β-hydroxyphenethyl)N-methyl-isoxazole-4-carboxamide, m.p. 135° to 137° C.

reactant | 3-ethyl-N,5-dimethyl-isoxazole-4-carboxamide | 0.348 mole | C(C)C1=NOC(=C1C(=O)NC)C | C8H12N2O2
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexane | 0.765 mole | CCCCCC | C6H14
reactant | benzaldehyde | 0.350 mole | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 3-ethyl-5-(β-hydroxyphenethyl)N-methyl-isoxazole-4-carboxamide | C(C)C1=NOC(=C1C(=O)NC)CC(C1=CC=CC=C1)O | C15H18N2O3
